US04048423
2,2,4,4-Tetramethylcyclobutan-1,3-dione mono-t-butylhydrazone was prepared by refluxing an aqueous solution of t-butylhydrazine with an equimolar amount of 2,2,4,4-tetramethylcyclobutan-1,3-dione.

reactant | t-butylhydrazine | C(C)(C)(C)NN | C4H12N2
reactant | 2,2,4,4-tetramethylcyclobutan-1,3-dione | CC1(C(C(C1=O)(C)C)=O)C | C8H12O2
product | 2,2,4,4-Tetramethylcyclobutan-1,3-dione mono-t-butylhydrazone | C(C)(C)(C)NN=C1C(C(C1(C)C)=O)(C)C | C12H22N2O
